US04066645
2-Methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidin-5(4H)-one
2.3 g. of 8-chloro-2-methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidin-5(4H)-one are hydrogenated in 50 ml. of dimethylformamide in the presence of 10% palladium on charcoal and 2 g. of triethylamine at 80° and 3 atmospheres hydrogen pressure. When the hydrogen absorption ceases, the solution is heated to reflux temperature and then filtered. After addition of 20 ml. of water, 2-methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidin-5(4H)-one crystallizes, yield: 1.8 g. (90%); m.p. > 300°.

reactant | 8-chloro-2-methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidin-5(4H)-one | ClC1=CC2=C(C(NC=3N2N=C(C3)C)=O)C=N1 | C10H7ClN4O
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | [Pd] | Pd
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidin-5(4H)-one | CC1=NN2C(NC(C3=C2C=CN=C3)=O)=C1 | C10H8N4O
